US06982274B2
b; 4-(1H-3-Indazolyl)-2-pyrimidinamine
A total of 20 mg of metallic sodium was dissolved in 5 ml of dry ethanol. To the resulting solution were added 76 mg of guanidine hydrochloride and 85 mg of (E)-3-(dimethylamino)-1-(1H-3-indazolyl)-2-propen-1-one, followed by heating under reflux for 12 hours. To the reaction mixture was added aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=7:5), to give 55 mg of the title compound as a colorless powder.

reactant | sodium | 20 mg | [Na] | Na
reactant | guanidine hydrochloride | 76 mg | Cl.NC(=N)N
reactant | (E)-3-(dimethylamino)-1-(1H-3-indazolyl)-2-propen-1-one | 85 mg | CN(/C=C/C(=O)C1=NNC2=CC=CC=C12)C | C12H13N3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(1H-3-Indazolyl)-2-pyrimidinamine | 55 mg | N1N=C(C2=CC=CC=C12)C1=NC(=NC=C1)N | C11H9N5
